US08791267B2
In a 40 mL vial equipped with a stir bar was placed 3-bromomethyl-3′-chloro-2-fluoro-6-methoxy-biphenyl (I-33, 400 mg, 1.21 mmol), 4-nitrophenylboronic acid (420 mg, 1.45 mmol), potassium phosphate (tribasic) (514 mg, 2.42 mmol), dimethoxyethane (3.5 mL) and 50% aqueous ethanol (3.5 mL). After degassing with nitrogen for 15 minutes, tetrakis(triphenylphosphine)palladium(0) (140 mg, 0.121 mmol) was added. The mixture was heated to 60° C. for 18 hours and then the palladium catalyst was removed by filtering through Celite. To the filtrate were added water (50 mL) and a saturated ammonium chloride solution (50 mL). After extracting with ethyl acetate (3×50 mL), the organic portions were combined, washed with brine (75 mL), dried (MgSO4) and concentrated. The crude material was purified by silica gel chromatography utilizing 20% ethyl acetate/hexanes as eluent to produce 342 mg (76%) of 3′-chloro-2-fluoro-6-methoxy-3-(4-nitro-benzyl)-biphenyl (I-34) as a yellow solid. MS (APCI−): 370.1 (M−1).

reactant | 3-bromomethyl-3′-chloro-2-fluoro-6-methoxy-biphenyl | 1.21 mmol, 400 mg | BrCC=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F | C14H11BrClFO
reactant | 4-nitrophenylboronic acid | 1.45 mmol, 420 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | potassium phosphate | 2.42 mmol, 514 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethoxyethane | 3.5 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.121 mmol, 140 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | 3′-chloro-2-fluoro-6-methoxy-3-(4-nitro-benzyl)-biphenyl | 342 mg, 76% | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC1=CC=C(C=C1)[N+](=O)[O-])F | C20H15ClFNO3
